.title KiCad schematic
U1 Net-_U1-Pad1_ Net-_U1-Pad2_ adc_bridge_1
U2 Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_R7-Pad1_ Net-_R8-Pad1_ Net-_R9-Pad1_ Net-_R6-Pad1_ Net-_R5-Pad1_ Net-_R4-Pad1_ dac_bridge_6
X2 Net-_U2-Pad6_ Net-_U2-Pad2_ Net-_U2-Pad1_ Net-_U2-Pad3_ unconnected-_X2-Pad5_ unconnected-_X2-Pad6_ Net-_U2-Pad4_ unconnected-_X2-Pad8_ unconnected-_X2-Pad9_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U1-Pad2_ IC_4017
C1 Net-_C1-Pad1_ GND 10u 
C2 Net-_C2-Pad1_ GND 10n
X1 GND Net-_C1-Pad1_ Net-_U1-Pad1_ VCC Net-_C2-Pad1_ Net-_C1-Pad1_ Net-_R1-Pad2_ VCC LM555N
R3 Net-_R3-Pad1_ VCC 1
Vv1 Net-_R3-Pad1_ GND pulse(0 9 0 1u 1u 0.73 10)
R2 Net-_R1-Pad2_ Net-_C1-Pad1_ 10k
R1 VCC Net-_R1-Pad2_ 1k
R9 Net-_R9-Pad1_ Net-_D3-Pad1_ 1k
R8 Net-_R8-Pad1_ Net-_D2-Pad1_ 1k
R7 Net-_R7-Pad1_ Net-_D1-Pad1_ 1k
R5 Net-_R5-Pad1_ Net-_D5-Pad1_ 1k
R4 Net-_R4-Pad1_ Net-_D6-Pad1_ 1k
R6 Net-_R6-Pad1_ Net-_D4-Pad1_ 1k
D2 Net-_D2-Pad1_ GND eSim_LED
D1 Net-_D1-Pad1_ GND eSim_LED
D6 Net-_D6-Pad1_ GND eSim_LED
D5 Net-_D5-Pad1_ GND eSim_LED
D4 Net-_D4-Pad1_ GND eSim_LED
D3 Net-_D3-Pad1_ GND eSim_LED
.end
