.title kicad schematic

.include lm555n.sub
.include 4017.sub
.include eSim_RedLED.lib
c2 net-_c2-pad1_ gnd 10n
r1 vcc net-_r1-pad2_ 1k
r3 net-_v1-pad1_ vcc 1
c1 net-_c1-pad1_ gnd 10u
vv1 net-_v1-pad1_ gnd pulse(0 9 0 1u 1u 0.73 10)
r2 net-_r1-pad2_ net-_c1-pad1_ 10k
x1 gnd net-_c1-pad1_ net-_x1-pad3_ vcc net-_c2-pad1_ net-_c1-pad1_ net-_r1-pad2_ vcc lm555n
* u1 net-_x1-pad3_ net-_u1-pad2_ adc_bridge_1
x2 d1 d2 d3 d4 d5 d6 d7 nc8 nc9 nc10 d7 net-_u1-pad2_ 4017
* u2 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_r7-pad1_ net-_r8-pad1_ net-_r9-pad1_ net-_r6-pad1_ net-_r5-pad1_ net-_r4-pad1_ dac_bridge_6
d4 net-_d4-pad1_ gnd eSim_RedLED
d3 net-_d3-pad1_ gnd eSim_RedLED
d6 net-_d6-pad1_ gnd eSim_RedLED
d5 net-_d5-pad1_ gnd eSim_RedLED
r8 net-_r8-pad1_ net-_d2-pad1_ 1k
r9 net-_r9-pad1_ net-_d3-pad1_ 1k
r7 net-_r7-pad1_ net-_d1-pad1_ 1k
d2 net-_d2-pad1_ gnd eSim_RedLED
d1 net-_d1-pad1_ gnd eSim_RedLED
r5 net-_r5-pad1_ net-_d5-pad1_ 1k
r4 net-_r4-pad1_ net-_d6-pad1_ 1k
r6 net-_r6-pad1_ net-_d4-pad1_ 1k
a1 [net-_x1-pad3_ ] [net-_u1-pad2_ ] u1
a2 [d1 d2 d3 d4 d5 d6 ] [net-_r7-pad1_ net-_r8-pad1_ net-_r9-pad1_ net-_r6-pad1_ net-_r5-pad1_ net-_r4-pad1_ ] u2
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, Ngspice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 2e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
